US09328099B2
Methyl 3-oxocyclohexanecarboxylate
To a solution of 3-oxocyclohexanecarboxylic acid (1.0 g, 7.0 mmol) in diethyl ether (28 mL) was added dropwise TMS-diazomethane (3.5 mL, 7.0 mmol, 2.0 mL in diethyl ether). MeOH (30 mL) was added and the mixture was maintained at ambient temperature for 30 minutes. The mixture was concentrated in vacuo, and the residue was purified by MPLC on silica gel (using a gradient elution of 0-45% EtOAc/hexanes). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound.

reactant | 3-oxocyclohexanecarboxylic acid | 7.0 mmol, 1.0 g | O=C1CC(CCC1)C(=O)O | C7H10O3
reactant | TMS-diazomethane | 7.0 mmol, 3.5 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | MeOH | 30 mL | CO | CH4O
solvent | diethyl ether | 28 mL | C(C)OCC | C4H10O
product | Methyl 3-oxocyclohexanecarboxylate | O=C1CC(CCC1)C(=O)OC | C8H12O3
